US08283353B2
To a solution of 3-amino-1H-1,2,4-triazole (1.46 g) and 4-(2-hydroxy-2-methylpropoxy)cyclohexanone (3.25 g) in acetic acid (30 mL) was added sodium triacetoxyborohydride (5.53 g), and the mixture was stirred at room temperature for 15 hr. The solvent was evaporated under reduced pressure, and the residue was diluted with saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate-isopropyl alcohol (3:1). The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: methanol/ethyl acetate=0/10→06/94 (volume ratio)] to give colorless amorphous 2-methyl-1-{[4-(1H-1,2,4-triazol-3-ylamino)cyclohexyl]oxy}propan-2-ol (2.84 g, 64%) as a diastereomixture.

reactant | 3-amino-1H-1,2,4-triazole | 1.46 g | NC1=NNC=N1 | C2H4N4
reactant | 4-(2-hydroxy-2-methylpropoxy)cyclohexanone | 3.25 g | OC(COC1CCC(CC1)=O)(C)C | C10H18O3
reactant | sodium triacetoxyborohydride | 5.53 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 2-methyl-1-{[4-(1H-1,2,4-triazol-3-ylamino)cyclohexyl]oxy}propan-2-ol | 2.84 g, 64% | CC(COC1CCC(CC1)NC1=NNC=N1)(C)O | C12H22N4O2
